US06436923B1
A. 6-Methoxy-1-[4-(phenylmethoxy)benzyl]-2-(tetrahydropyran-4-yl)-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared as described in Example 14.C, using 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.5 g, 1.39 mmol) and tetrahydro-4H-pyran-4-one (1.084 g, 10.8 mmol) to provide the title compound (0.479 g, 78% yield): ES-MS (m/z) 444 [M+H]+.

reactant | 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 1.39 mmol, 0.5 g | COC=1C=C2CCNC(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
reactant | tetrahydro-4H-pyran-4-one | 10.8 mmol, 1.084 g | O1CCC(CC1)=O | C5H8O2
product | 6-Methoxy-1-[4-(phenylmethoxy)benzyl]-2-(tetrahydropyran-4-yl)-1,2,3,4-tetrahydroisoquinoline | 0.479 g, 78% yield | COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)C1CCOCC1 | C29H33NO3
